US05786358
To a solution of 4.6 g of benzyl 3-carbomethoxypyrrolidine-1-carboxylate in 150 mL of anhydrous methanol was added 0.92 g of 10% Pd/C. The reaction mixture was placed under an atmosphere of hydrogen and stirred overnight at room temperature. The reaction mixture was then filtered through a Celite® pad, and the filtrate concentrated in vacuo. The residue was chromatographed on silica gel with 2-16% CH3OH/CHCl3 to give 1.40 g (62% yield) of 3-carbomethoxypyrrolidine as a clear oil, 1H NMR (300 MHz, CDCl3) δ1.90-2.10 (m, 2 H); 2.97-3.11 (m, 4H); 3.18-3.29 (m, 2H); 3.44 (s, 3H).

reactant | benzyl 3-carbomethoxypyrrolidine-1-carboxylate | 4.6 g | C(=O)(OC)C1CN(CC1)C(=O)OCC1=CC=CC=C1 | C14H17NO4
solvent | methanol | 150 mL | CO | CH4O
catalyst | Pd/C | 0.92 g | [Pd] | Pd
product | 3-carbomethoxypyrrolidine | 1.40 g, 62% yield | C(=O)(OC)C1CNCC1 | C6H11NO2
